US08278335B2
Step 2. 2-(Azidomethyl)-6-bromopyridine
Sodium azide (3.11 g, 47.8 mmol) and 2-bromo-6-(bromomethyl)pyridine (4.00 g, 15.94 mmol) were combined in DMSO (30 mL) and stirred at room temperature for 4 h. The mixture was subsequently diluted with water and extracted with diethyl ether (2×). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated. The residue was purified by flash chromatography (0-10% EtOAc/hexanes) to yield the title compound as a colorless oil. LRMS (APCI) calc'd for C6H6BrN4 [M+H]+: 213, Found: 213.

reactant | Sodium azide | 47.8 mmol, 3.11 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-bromo-6-(bromomethyl)pyridine | 15.94 mmol, 4.00 g | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(Azidomethyl)-6-bromopyridine | N(=[N+]=[N-])CC1=NC(=CC=C1)Br | C6H5BrN4
